US09216968B2
Ethyl 5-bromo-2,3-dihydro-1-benzofuran-7-carboxylate
To a solution of 5-bromo-2,3-dihydro-1-benzofuran-7-carboxylic acid (1.0 g) in EtOH (15 mL), sulfuric acid (0.5 mL) was added, and the solution was heated at reflux for 30 hours. The reaction mixture was cooled to room temperature, and EtOH was removed. To the residue was added water, and the solution was extracted with ethyl acetate. The ethyl acetate layer was washed sequentially with saturated aqueous sodium bicarbonate and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to obtain the titled compound (1.07 g) as pale yellow powder.

reactant | 5-bromo-2,3-dihydro-1-benzofuran-7-carboxylic acid | 1.0 g | BrC=1C=C(C2=C(CCO2)C1)C(=O)O | C9H7BrO3
reactant | EtOH | 15 mL | CCO | C2H6O
solvent | sulfuric acid | 0.5 mL | S(O)(O)(=O)=O | H2O4S
product | Ethyl 5-bromo-2,3-dihydro-1-benzofuran-7-carboxylate | 1.07 g | BrC=1C=C(C2=C(CCO2)C1)C(=O)OCC | C11H11BrO3
